US07163938B2
B. 5-Chloro-2-[4-(4-methylhexahydro-1,4-diazepin-1-yl)-cyclohexylcarbonylamino]-N-(5-chloropyridin-2-yl)benzamide Dihydrochloride.
To a mixture of 5-chloro-2-[4-oxocyclohexylcarbonylamino]-N-(5-chloropyridin-2-yl)benzamide (600 mg, 1.5 mmol), 1-methyl-hexahydro-1,4-diazepine (0.57 mL, 4.6 mmol), methanol (30 mL) and methylene chloride (15 mL) was added NaCNBH3 (66 mg, 1.05 mmol) and the mixture was stirred for four days. To the reaction mixture was added additional 1-methyl-hexahydro-1,4-diazapine (0.19 mL, 1.5 mmol) followed by NaCNBH3 (22 mg, 0.35 mmol) and the mixture was stirred for 1 day. The reaction mixture was acidified with 1 N HCl, stirred for 1 h, and then concentrated in vacuo. To the residue was added methylene chloride and the resulting solution was washed with satd Na2CO3 solution. The organic layer was concentrated and chromatographed on 60 g silica gel (CH2Cl2 to 5% 2 M NH3/MeOH in CH2Cl2) followed by further HPLC purification (Vydac C18; 5% CH3CN/(0.1% TFA in H2O) to 70% CH3CN/(0.1% TFA in H2O).; Rt: 20.3 min) to give the title compound as a solid (340 mg, 39%).

reactant | 5-chloro-2-[4-oxocyclohexylcarbonylamino]-N-(5-chloropyridin-2-yl)benzamide | 1.5 mmol, 600 mg | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1CCC(CC1)=O | C19H17Cl2N3O3
reactant | 1-methyl-hexahydro-1,4-diazepine | 4.6 mmol, 0.57 mL | CN1CCNCCC1 | C6H14N2
reactant | NaCNBH3 | 1.05 mmol, 66 mg | [BH3-]C#N.[Na+]
reactant | 1-methyl-hexahydro-1,4-diazapine | 1.5 mmol, 0.19 mL | CN1CCNCCC1 | C6H14N2
reactant | NaCNBH3 | 0.35 mmol, 22 mg | [BH3-]C#N.[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 30 mL | CO | CH4O
product | 5-Chloro-2-[4-(4-methylhexahydro-1,4-diazepin-1-yl)-cyclohexylcarbonylamino]-N-(5-chloropyridin-2-yl)benzamide Dihydrochloride | 340 mg, 39% | Cl.Cl.ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1CCC(CC1)N1CCN(CCC1)C | InChI=1S/C25H31Cl2N5O2.2ClH/c1-31-11-2-12-32(14-13-31)20-7-3-17(4-8-20)24(33)29-22-9-5-18(26)15-21(22)25(34)30-23-10-6-19(27)16-28-23;;/h5-6,9-10,15-17,20H,2-4,7-8,11-14H2,1H3,(H,29,33)(H,28,30,34);2*1H
